US04729994
To a suspension of 12.6 g (0.33 mole) lithium aluminum hydride (LAH) in 150 mL of dry THF under argon was added dropwise a suspension of 21.0 g (0.083 mole) (S)-N-(2-hydroxy-1-methylethyl)-3,4-dimethoxybenzeneacetamide in dry THF. The reaction mixture was heated under reflux for 4 hr. An additional 1.0 g of LAH was added and refluxed another 3 hr. An additional 3.0 g of LAH was added and the reaction was refluxed overnight. To the reaction was added 69 mL (0.48 mole) of triethanolamine over 1 hr. After stirring for 90 min, 16 ml of water was added and this was stirred overnight. An additional 12 ml of water was added. The solid that formed was filtered off and the filter cake was washed three times with ether and once with THF. The filtrate was washed with brine and dried (K2CO3). The solvent was removed in vacuo. The residue was dissolved in ether/acetonitrile, the undissolved solid was filtered off and the filtrate was evaporated in vacuo. The residue was treated with ethereal hydrogen chloride and the solid was collected. Three recrystallizations from acetonitrile gave 6.9 g of (S)-2-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-1-propanol (38%) mp, 120°-123° C.

reactant | lithium aluminum hydride | 0.33 mole, 12.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-N-(2-hydroxy-1-methylethyl)-3,4-dimethoxybenzeneacetamide | 0.083 mole, 21.0 g | OC[C@H](C)NC(CC1=CC(=C(C=C1)OC)OC)=O | C13H19NO4
reactant | LAH | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LAH | 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | triethanolamine | 0.48 mole, 69 mL | N(CCO)(CCO)CCO | C6H15NO3
reactant | water | 16 ml | O | H2O
reactant | water | 12 ml | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (S)-2-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-1-propanol | 6.9 g, 38% | COC=1C=C(C=CC1OC)CCN[C@H](CO)C | C13H21NO3
